US07956216B2
94A: 3-Isobutyl-benzoic acid methyl ester
Compound from example 76A (1.62 g, 6 mmol), N-methylpyrrolidinone (3.4 mL), Fe(acac)3 (140 mg, 0.4 mmol) and dry THF (35 mL) were stirred under nitrogen at room temperature. Isobutylmagnesium bromide (2.0 M in Et2O, 3.6 mL) was added by syringe. After stirring for fifteen minutes, HCl (2 M, 20 mL) was slowly added. The mixture was diluted with water and extracted three times with EtOAc. The organic layers were combined, washed with water and then brine, were dried over MgSO4 and were concentrated. Purification was achieved using flash chromatography on SiO2 with hexanes/toluene 75:25. A colourless oil was obtained (1.07 g, 93%). NMR 1H (ppm, CDCl3): 7.94-7.89 (m, 2H), 7.39-7.33 (m, 2H), 3.89 (s, 3H), 2.51 (d, J3=7.2 Hz, 2H), 1.94-1.85 (m, 1H), 0.89 (t, J3=6.6 Hz, 6H).

reactant | N-methylpyrrolidinone | 3.4 mL | CN1C(CCC1)=O | C5H9NO
reactant | THF | 35 mL | C1CCOC1 | C4H8O
reactant | Isobutylmagnesium bromide | 2.0 M, 3.6 mL | C(C(C)C)[Mg]Br
reactant | HCl | 2 M, 20 mL | Cl | ClH
reactant | water | O | H2O
product | 3-Isobutyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CC(C)C)=O | C12H16O2
